US07741341B2
To a suspension of 43.6 mg (0.080 mmol) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid methyl ester in 4 mL MeOH 0.4 mL of a 1 M aqueous LiOH-solution were added and the resulting mixture was stirred at 60° C. for 5 h. The mixture was acidified by the addition of a 1 M HCl-solution (pH≈2-3) and concentrated under reduced pressure. Final purification by preparative RP-HPLC (CH3CN/H2O gradient+0.05% formic acid) gave pure 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid. The corresponding dihydrochloride was obtained by treatment of the product with a 0.1 M HCl-solution followed by lyophilization. Yield: 43 mg MS (ES+): m/e=528, chloro pattern.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid methyl ester | 0.080 mmol, 43.6 mg | COC(=O)C1=CC2=C(N(C(=N2)C(NC2CCN(CC2)C(C)C)=O)CC2=NOC(=C2)C=2SC(=CC2)Cl)C=C1 | C26H28ClN5O4S
reactant | LiOH | 1 M | [Li+].[OH-]
reactant | HCl | 1 M, pH≈2-3 | Cl | ClH
solvent | MeOH | 4 mL | CO | CH4O
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC2=C1C=CC(=C2)C(=O)O)C(NC2CCN(CC2)C(C)C)=O | C25H26ClN5O4S
